US04530922
Preparation of Allyl(chloromethyl)[bis(4-fluorophenyl)]silane
A mixture of 1.04 g (0.0428 mol) of magnesium turnings and about 0.05 g of iodine in 50 ml of ether was stirred under nitrogen while a solution of 4.7 ml (0.0544 mol) of 3-bromopropene in ether was added dropwise. The iodine color quickly disappeared, and the reaction temperature was kept around 30° C. by cooling with ice-water. The resulting solution was stirred 2 hours at room temperature. A solution of 10.0 gm (0.033 mol) of bis(4-fluorophenyl)chlorochloromethylsilane in 20 ml of ether was then added over 5 minutes, and the resulting mixture was allowed to stir overnight. The solution was treated with 20 ml of saturated aqueous ammonium chloride and extracted with ether. The ether was washed with water and with brine. Drying over magnesium sulfate and removal of solvent afforded a clear colorless oil which was distilled at 0.4 torr (bp 120°-130° C.) to give the title compound: nmr (CDCl3) 2.3 (2H, d, J=8 Hz), 3.3 (1H, s), 5.0 (2H, m), 5.8 (1H, m), 7.1 (4H, t, J=9 Hz), 7.6 (4H, d of d, J=9,6 Hz).

reactant | magnesium | 0.0428 mol, 1.04 g | [Mg] | Mg
reactant | iodine | about 0.05 g | II | I2
reactant | 3-bromopropene | 0.0544 mol, 4.7 ml | BrCC=C | C3H5Br
reactant | bis(4-fluorophenyl)chlorochloromethylsilane | 0.033 mol, 10.0 gm | FC1=CC=C(C=C1)[Si](CCl)(Cl)C1=CC=C(C=C1)F | C13H10Cl2F2Si
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | Allyl(chloromethyl)[bis(4-fluorophenyl)]silane | C(C=C)[Si](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)CCl | C16H15ClF2Si
